US07291635B2
A solution of the title A compound, 4-bromomethyl-benzoyl chloride (466 mg, 2 mmol) in 3 mL of CH2Cl2 is added dropwise to a solution of 2-ethyl-1-butanol (204 mg, 2 mmol) and TEA (202 mg, 2 mmol) in 10 mL of CH2Cl2 at 0˜5° C. over 30 min. The reaction is allowed to warm to RT and stirred overnight. The solvent is evaporated and the residue is partitioned between hexane and water. The organic phase is dried over anhydrous MgSO4 and concentrated. The residue is chromatographic on silica gel using EtOAc/hexane (gradient 90-70) to give 4-bromomethyl-benzoic acid 2-ethyl-butyl ester as a colorless oil.

reactant | 4-bromomethyl-benzoyl chloride | 2 mmol, 466 mg | BrCC1=CC=C(C(=O)Cl)C=C1 | C8H6BrClO
reactant | 2-ethyl-1-butanol | 2 mmol, 204 mg | C(C)C(CO)CC | C6H14O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-benzoic acid 2-ethyl-butyl ester | C(C)C(COC(C1=CC=C(C=C1)CBr)=O)CC | C14H19BrO2
